US06165942
Synthesis of 8-(4-chloro-2-fluoro-5-propargyloxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.25)
A mixture of 8-(4-chloro-2-fluoro-5-hydroxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (4.3 g), propargyl bromide (2.3 g), potassium carbonate (2.1 g) and acetonitrile (100 ml) was heated to reflux for 2 hours. The solvent was distilled off under reduced pressure. The residue was added with water and extracted with ethyl acetate. The extract layer was washed with water and dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was recrystallized from diisopropyl ether to give the compound of interest (4.2 g) as a milk white crystal.

reactant | 8-(4-chloro-2-fluoro-5-hydroxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 4.3 g | ClC1=CC(=C(C=C1O)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C13H6ClF4N3O2
reactant | propargyl bromide | 2.3 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 8-(4-chloro-2-fluoro-5-propargyloxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | ClC1=CC(=C(C=C1OCC#C)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C16H8ClF4N3O2
